US06555577B1
(E)-(S)-Ethyl 2-Ethoxy-3-{4-[3-(2′-methyl-biphenyl-4-yl)-but-2-enyloxy]-phenyl}-propionate
The title compound (1.80 g, 78%) was prepared as a colourless oil from (E)-3-(2′-methyl-biphenyl-4-yl)-but-2-en-1-ol (1.19 g, 4.99 mmol) and (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate (1.31 g, 6.48 mmol) by a procedure analogous to that described in example 52c.

reactant | (E)-3-(2′-methyl-biphenyl-4-yl)-but-2-en-1-ol | 4.99 mmol, 1.19 g | CC1=C(C=CC=C1)C1=CC=C(C=C1)/C(=C/CO)/C | C17H18O
reactant | (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate | 6.48 mmol, 1.31 g | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
product | (E)-(S)-Ethyl 2-Ethoxy-3-{4-[3-(2′-methyl-biphenyl-4-yl)-but-2-enyloxy]-phenyl}-propionate | 1.80 g, 78% | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)OC\C=C(/C)\C1=CC=C(C=C1)C1=C(C=CC=C1)C | C30H34O4
